US04800212
7-Cyano-1-(2-oxopyrrolidinyl)-3,3-dimethyl-3,4-dihydronaphthalene (1)
To a suspension of sodium hydride (0.18 g of 80% dispersion in oil) in dry dimethylsulphoxide (5 ml) was added 2-pyrrolidinone (0.51 g) in dimethylsulphoxide (5 ml) and the mixture was then stirred at room temperature, under nitrogen, for 1 hour. A solution of 7-cyano-1,2-epoxy-3,3-dimethyl-1,2,3,4,-tetrahydronaphthalene (1.0 g) in dimethylsulphoxide was then added dropwise, and the solution stirred for 18 hours at room temperature. The mixture was then poured into water and extracted into ethyl acetate. The combined organic layers were washed with water, then brine, and dried over sodium sulphate. Removal of drying agent and solvent, followed by chromatography of the residue on a silica gel column eluted with ethyl acetate-pentane (1:1), gave the title compound as a solid, which recrystallised from 60°-80° petrol-ethyl acetate (5:1) as yellow prisms (0.25 g) having mp 131°-2° C.;

reactant | sodium hydride | 0.18 g | [H-].[Na+]
reactant | 2-pyrrolidinone | 0.51 g | N1C(CCC1)=O | C4H7NO
reactant | 7-cyano-1,2-epoxy-3,3-dimethyl-1,2,3,4,-tetrahydronaphthalene | 1.0 g | C(#N)C1=CC=C2CC(C3C(C2=C1)O3)(C)C | C13H13NO
reactant | water | O | H2O
solvent | dimethylsulphoxide | 5 ml | CS(=O)C | C2H6OS
solvent | dimethylsulphoxide | 5 ml | CS(=O)C | C2H6OS
product | 7-Cyano-1-(2-oxopyrrolidinyl)-3,3-dimethyl-3,4-dihydronaphthalene | C(#N)C1=CC=C2CC(C=C(C2=C1)N1C(CCC1)=O)(C)C | C17H18N2O
